US03969467
To a solution of isobutanol (19.2 g., 0.26 mole) and N-benzyl-N-methylamine (30 g., 0.25 mole) is added excess 40 percent formaldehyde (25 g.). The mixture reacts exothermically, and two layers form. Potassium carbonate is added to form a saturated aqueous layer. The mixture is stirred overnight, then extracted thoroughly with diethyl ether. The ether layer is dried, then evaporated under vacuum to provide a residual oil. The residue is distilled under vacuum to provide N-benzyl-N-methylaminomethyl isobutyl ether, b.p. 72°-77° C. at 1.5 mm. Hg as a clear liquid. The structure is established by nuclear magnetic resonance analysis.

reactant | isobutanol | 0.26 mole, 19.2 g | C(C(C)C)O | C4H10O
reactant | N-benzyl-N-methylamine | 0.25 mole, 30 g | C(C1=CC=CC=C1)NC | C8H11N
reactant | formaldehyde | 25 g | C=O | CH2O
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | N-benzyl-N-methylaminomethyl isobutyl ether | C(C(C)C)OCN(C)CC1=CC=CC=C1 | C13H21NO
